US08530661B2
A suspension of 2-amino-5-bromo-3-iodopyridine (5.0 g, 16.7 mmol), bis-(triphenyl-phosphine)-palladium(II)-dichloride (43 mg, 0.061 mmol), copper(I)iodide (29.4 mg, 0.15 mmol) and triethylamine (2.21 g, 21.8 mmol) in dichloromethane (20 mL) was treated at 23 to 30° C. within 1 to 2 hours with a solution of 1,1-dimethyl-2-propyn-1-ol (1.85 g, 21.7 mmol) in dichloromethane (10 mL) and the resulting mixture was stirred at 25° C. for 4 hours. The mixture was diluted with dichloromethane (10 mL) and washed with water (2×25 mL). The organic phase was then treated with 1 M HCl (40 mL). The layers were separated and the organic layer was extracted with 1 M HCl (15 mL). The combined product containing aqueous layers were washed with dichloromethane (2×8 mL). The pH of the aqueous layer was adjusted to pH 7-9 by the drop wise addition of sodium hydroxide solution (28% in water). The resulting suspension was stirred at 20° C. over night and the crystals were then filtered off and washed with water (2×5 mL). The wet crystals were dissolved in N-methylpyrrolidone (50 mL) and treated within 2 hours at 60° C. and 50-100 mbar with an aqueous solution of lithium hydroxide (2.4 M, 32 mL). The resulting mixture was heated to 75° C. and stirred at this temperature and under reduced pressure (50-100 mbar) for 15-20 hours. Toluene (20 mL) and water (20 mL) were then added and the layers were separated. The aqueous layer was extracted with toluene (3×25 mL). The combined organic layers were washed with water (3×10 mL) and then concentrated to dryness. The residue was dissolved in N-methylpyrrolidone (50 mL) and treated at 60° C. with potassium tert.-butylate (3.52 g, 30.7 mmol). After stirring for 3 hours at 60° C., the mixture was cooled to ambient temperature and diluted with toluene (40 mL) and water (40 mL). The aqueous layer was separated and back extracted with toluene (3×50 mL). The combined toluene layers were washed with water (3×10 mL) and then concentrated to dryness. The residue was dissolved in a hot mixture of toluene and n-heptane (20 mL). The clear solution was cooled to −5° C. within 4 to 6 hours whereupon crystals precipitated. The suspension was stirred at −5° C. for 2-4 hours. The crystals were filtered off, washed with heptane and dried at 45° C./<30 mbars over night to afford 5-bromo-7-azaindole (2.05 g, 62% yield) as slightly yellow crystals with a purity of 99.6% (HPLC, area%).

reactant | 2-amino-5-bromo-3-iodopyridine | 16.7 mmol, 5.0 g | NC1=NC=C(C=C1I)Br | C5H4BrIN2
reactant | triethylamine | 21.8 mmol, 2.21 g | C(C)N(CC)CC | C6H15N
reactant | 1,1-dimethyl-2-propyn-1-ol | 21.7 mmol, 1.85 g | CC(C#C)(O)C | C5H8O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 mL | O | H2O
catalyst | copper(I)iodide | 0.15 mmol, 29.4 mg | [Cu]I
product | 5-bromo-7-azaindole | 2.05 g, 62% yield | BrC=1C=C2C=CNC2=NC1 | C7H5BrN2
